2144-03-17 11:15:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 PRESEP CATHETER - START [**2144-3-16**] 11:00 AM
 EKG - At [**2144-3-16**] 11:37 AM
   -- [**Hospital1 7**] [**Location (un) 250**] urine culture pending (please check OMR -> External Labs
   -> [**Location (un) 250**] microbiology)
   -- Pt received total of 5 Liters (4LR 1NS) after ED, CVP up to 10
   -- Weaning levophed (0.01mcg overnight)
   -- Mild agitation, pulling at catheters and unable to sleep, gave low
   dose Zydis (zyprexa) at ~1am
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2144-3-16**] 04:40 PM
   Piperacillin - [**2144-3-17**] 08:43 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2144-3-17**] 11:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**46**] AM
   Tmax: 37.3
C (99.1
   Tcurrent: 36.6
C (97.9
   HR: 60 (60 - 117) bpm
   BP: 86/37(49) {86/30(49) - 120/72(160)} mmHg
   RR: 18 (14 - 24) insp/min
   SpO2: 91%
   Heart rhythm: 1st AV (First degree AV Block)
   Height: 73 Inch
    CVP: 4 (4 - 21)mmHg
   CO/CI (Fick): (79.2 L/min) / (37.9 L/min/m2)
   Bladder pressure: 22 (22 - 22) mmHg
   Mixed Venous O2% Sat: 95 - 95
   Total In:
                                                                 10,339 mL
                                                                    841 mL
   PO:
   TF:
   IVF:
                                                                  4,339 mL
                                                                    841 mL
   Blood products:
                                                                  1,000 mL
   Total out:
                                                                  5,140 mL
                                                                  2,300 mL
   Urine:
                                                                  3,640 mL
                                                                  2,300 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  5,199 mL
                                                                 -1,457 mL
   Respiratory support
   SpO2: 91%
   ABG: ///23/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   166 K/uL
   8.7 g/dL
   87 mg/dL
   2.6 mg/dL
   23 mEq/L
   3.4 mEq/L
   55 mg/dL
   118 mEq/L
   153 mEq/L
   26.3 %
   7.8 K/uL
        [image002.jpg]
                             [**2144-3-16**]  09:47 AM
                             [**2144-3-16**]  11:35 AM
                             [**2144-3-16**]  12:17 PM
                             [**2144-3-16**]  04:55 PM
                             [**2144-3-17**]  04:12 AM
   WBC
   6.4
   8.0
   7.8
   Hct
   24
   18.9
   20.3
   24.8
   26.3
   Plt
   119
   158
   166
   Cr
   4.6
   3.7
   2.6
   Glucose
   88
   105
   87
   Other labs: PT / PTT / INR:38.9/54.6/4.1, ALT / AST:[**9-6**], Alk Phos / T
   Bili:29/0.2, Lactic Acid:0.8 mmol/L, LDH:233 IU/L, Ca++:8.1 mg/dL,
   Mg++:2.3 mg/dL, PO4:3.9 mg/dL
   Assessment and Plan
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 URINARY TRACT INFECTION (UTI)
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
   67 year-old man with urinary retenetion, hydronephrosis, possible
   urosepsis.
   # Sepsis - probable urinary tract site.  CT abdomen and CXR without
   evidence of any other source.  Iniitally hypotensive requiring levophed
   but now off pressors.  Urine cx from OSH still pending.   Covered with
   Zosyn, Vanco.  No prior positive cultures in our system.
   - continue zosyn and vanc
   - plan to check vanc level and dose by level
   - continue with IVF to support BP
   - f/u OSH and [**Hospital1 19**] urine and blood cultures
   - f/u urology recs
   # Hydronephrosis and Elevated creatinine
 presented with
   hydronephrosis and elevated creatinine.  Creatinine improved with
   replacement of Foley and volume resuscitation.
   - continue to monitor BUN/creatinine daily
   - continue Foley; stop CBI
   .
   # Hypernatremia
 Likely secondary to post-obstructive diuresis and
   very high urine output. Sodium currently 153, from 146 yesterday and
   134 on admisison. 4.7 L fluid deficit.  [**Month (only) 51**] be contributing to altered
   mental status.
   - continue 125/h D5W with goal to bring serum Na to 140 in the next 24
   hours
   -  1200 recheck sodium
   -  continue q6h sodium checks.
   .
   # Dementia - chronic; need additional hx from NH, family
   # Prolonged coags:  INR 4.1 currently, had a GU bleed, now resolved.
   [**Male First Name (un) 1930**] Valve, goal 2.5-3.5
   4) Anemia - 2 Units Blood here for HCT 20, now 24. No further GU
   bleeding since in unit.
   - 1800 Hct
   5) Abdominal distention - no etiology obvious on CT. Will follow. Looks
   OK on exam today
   ICU Care
   Nutrition: nothing PO no given AMS
 will get S&S eval tomorrow if
   mental status improves
   Glycemic Control:
   Lines:
   Presep Catheter - [**2144-3-16**] 11:00 AM
   Prophylaxis:  PPI, therapeutic INR
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:  need to talk to family (sister)
   [**Name (NI) 36**] status:  FULL STATUS
   Disposition: MICU for now until more stable

2144-03-17 11:41:00 Physician Attending Progress Note
Chief Complaint: presumed urosepsis, bilateral hydronephrosis, ARF.
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
 PRESEP CATHETER - START [**2144-3-16**] 11:00 AM
 EKG - At [**2144-3-16**] 11:37 AM
   Weaned off levophed.
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2144-3-16**] 04:40 PM
   Piperacillin - [**2144-3-17**] 08:43 AM
   Infusions:
   Other ICU medications:
   Other medications:
   zosyn, zantac
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2144-3-17**] 11:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**46**] AM
   Tmax: 37.3
C (99.1
   Tcurrent: 36.6
C (97.9
   HR: 60 (60 - 117) bpm
   BP: 86/37(49) {86/30(49) - 120/72(160)} mmHg
   RR: 18 (14 - 24) insp/min
   SpO2: 91%
   Heart rhythm: 1st AV (First degree AV Block)
   Height: 73 Inch
   CVP: 4 (4 - 21)mmHg
   CO/CI (Fick): (79.2 L/min) / (37.9 L/min/m2)
   Bladder pressure: 22 (22 - 22) mmHg
   Mixed Venous O2% Sat: 95 - 95
                                Total In:
                                                                 10,339 mL
                                                                    838 mL
   PO:
                                TF:
   IVF:
                                                                  4,339 mL
                                                                    838 mL
   [**Year (2 digits) **] products:
                                                                  1,000 mL
   Total out:
                                                                  5,140 mL
                                                                  2,300 mL
   Urine:
                                                                  3,640 mL
                                                                  2,300 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  5,199 mL
                                                                 -1,462 mL
   Respiratory support
   SpO2: 91%
   ABG: ///23/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.7 g/dL
   166 K/uL
   87 mg/dL
   2.6 mg/dL
   23 mEq/L
   3.4 mEq/L
   55 mg/dL
   118 mEq/L
   153 mEq/L
   26.3 %
   7.8 K/uL
        [image002.jpg]
                             [**2144-3-16**]  09:47 AM
                             [**2144-3-16**]  11:35 AM
                             [**2144-3-16**]  12:17 PM
                             [**2144-3-16**]  04:55 PM
                             [**2144-3-17**]  04:12 AM
   WBC
   6.4
   8.0
   7.8
   Hct
   24
   18.9
   20.3
   24.8
   26.3
   Plt
   119
   158
   166
   Cr
   4.6
   3.7
   2.6
   Glucose
   88
   105
   87
   Other labs: PT / PTT / INR:38.9/54.6/4.1, ALT / AST:[**9-6**], Alk Phos / T
   Bili:29/0.2, Lactic Acid:0.8 mmol/L, LDH:233 IU/L, Ca++:8.1 mg/dL,
   Mg++:2.3 mg/dL, PO4:3.9 mg/dL
   Imaging: CXR reviewed clear lung [**Last Name (un) 4080**]
   CT [**Last Name (un) **] reviewed
   Microbiology: pending.
   Assessment and Plan
   Hypotension/shock: weaned off pressors MAP now 64, concern for
   urosepsis given neurogenic bladder and bilaterla hydro on admission, no
   other clear source, CXR clear, U/a grossly positive but in the setting
   of hematuria. Continue IVF if BP Drops.
   Post obstructive renal failure: improving s/p IVF and decompression
   with clear urine
   Hypernatremia: FW deficit 5L, continue D5W at 125/hr, likely secondary
   to post obstructive/ATN diuresis.
   Hematuria: no further [**Last Name (LF) 573**], [**First Name3 (LF) **] stop irrigation to closely follow up
   urine output
   Anemia: hct improved s/p 3U of PRBC will continue to monitor
   Aspiration risk: will ask SLP to see, d/c oral meds and diet for now..
   pending improvement of his mental status
   Altered mental status: baseline + hypernatremia +/- hypoperfusion/toxic
   metabolic plan per above.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Presep Catheter - [**2144-3-16**] 11:00 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Coumadin)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill
   ------ Protected Section ------
   I saw and examined the pt, and was physically present with the ICU team
   for the key portions of services provided. I agree with Dr. [**First Name (STitle) 10164**]
   note, including assessment and plan. \
   67 yo male with dementia, neurogenic bladder admitted with acute renal
   failure with obstrcutive uropathy and hypotension. Current issues:
   *Acute renal failure: improving with foley decompression and serial
   monitoring, good urine output.
   *Hyptoension: some component of hypovolemia as CVP
s mildly low, may
   also be septic. On Vanc/Zosyn, cultures so far negative, volume
   resuscitate as needed. Not on pressors currently
   *Hypernatremia: auto-diuresis +/- zoysn may be contributing. On free
   water with improvement in Na this afternoon
   Total time spent: 35 minutes
   Pt is critically ill.
   ------ Protected Section Addendum Entered By:[**Name (NI) 618**] [**Last Name (NamePattern1) **], MD
   on:[**2144-3-17**] 16:19 ------

2144-03-18 07:50:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Transient hypotension to 80s while sleeping, fluid responsive
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2144-3-16**] 04:40 PM
   Piperacillin - [**2144-3-17**] 03:58 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2144-3-18**] 07:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**46**] AM
   Tmax: 36.8
C (98.3
   Tcurrent: 35.9
C (96.7
   HR: 65 (52 - 136) bpm
   BP: 117/55(69) {85/37(49) - 120/64(76)} mmHg
   RR: 23 (14 - 27) insp/min
   SpO2: 92%
   Heart rhythm: 1st AV (First degree AV Block)
   Height: 73 Inch
    CVP: 10 (-4 - 20)mmHg
   Total In:
                                                                  5,253 mL
                                                                    960 mL
   PO:
                                                                  1,000 mL
                                                                    960 mL
   TF:
   IVF:
                                                                  4,253 mL
   Blood products:
   Total out:
                                                                  2,990 mL
                                                                    595 mL
   Urine:
                                                                  2,990 mL
                                                                    595 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,263 mL
                                                                    365 mL
   Respiratory support
   SpO2: 92%
   ABG: ///26/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   217 K/uL
   9.0 g/dL
   82 mg/dL
   1.7 mg/dL
   26 mEq/L
   3.7 mEq/L
   31 mg/dL
   113 mEq/L
   147 mEq/L
   27.5 %
   9.1 K/uL
        [image002.jpg]
                             [**2144-3-16**]  09:47 AM
                             [**2144-3-16**]  11:35 AM
                             [**2144-3-16**]  12:17 PM
                             [**2144-3-16**]  04:55 PM
                             [**2144-3-17**]  04:12 AM
                             [**2144-3-17**]  12:03 PM
                             [**2144-3-17**]  05:25 PM
                             [**2144-3-18**]  03:40 AM
   WBC
   6.4
   8.0
   7.8
   9.1
   Hct
   24
   18.9
   20.3
   24.8
   26.3
   26.0
   27.5
   Plt
   119
   158
   166
   217
   Cr
   4.6
   3.7
   2.6
   2.1
   1.8
   1.7
   Glucose
   88
   105
   87
   104
   115
   82
   Other labs: PT / PTT / INR:34.5/58.5/3.5, ALT / AST:[**9-6**], Alk Phos / T
   Bili:29/0.2, Lactic Acid:0.8 mmol/L, LDH:233 IU/L, Ca++:8.2 mg/dL,
   Mg++:1.9 mg/dL, PO4:2.5 mg/dL
   Assessment and Plan
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 URINARY TRACT INFECTION (UTI)
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
   67 year-old man with urinary retenetion, hydronephrosis, possible
   urosepsis.
   # Sepsis
 Although we have no clear source for infection, it continues
   to be a likely urinary source given his obstruction. Not requiring
   pressors ~ 36 hours.
   - continue zosyn at 4.5 Q8 hours and vanc
   - continue with IVF to support BP as needed
   - f/u OSH and [**Hospital1 19**] urine and blood cultures
   - f/u urology recs
   # Hydronephrosis and Elevated creatinine
 presented with
   hydronephrosis and elevated creatinine.  Creatinine improving with
   replacement of Foley and volume resuscitation.
   - continue to monitor BUN/creatinine daily
   - continue Foley
   - Monitor UOP
   # Hypernatremia
 Likely secondary to post-obstructive diuresis and
   very high urine output. Sodium currently 153, from 146 yesterday and
   134 on admisison. 4.7 L fluid deficit.  [**Month (only) 51**] be contributing to altered
   mental status.
   - continue 125/h D5W with goal to bring serum Na to 140 in the next 24
   hours
   -  1200 recheck sodium
   -  continue q6h sodium checks.
   # Dementia
 chronic unspecified neurodegenerative disorder.  He is not
   at baseline as of yesterday per sister, but today he is much improved.
   - Minimize delirium
   # Prolonged coags:  INR 3.5 currently, goal 2.5-3.5
   - Restart home Warfarin Dose
   #) Anemia
 Hct stable after 3 units pRBCs, No further GU bleeding
   since in unit. Stable
   #) Constipation: Bowel Regimen
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines: Peripherals
   Presep Catheter - [**2144-3-16**] 11:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full
   Disposition: Call out to floor
   ------ Protected Section ------
   Physical Exam
   General Appearance: Thin, contracted
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Loud), mechanical S2 at heart base
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Percussion: Resonant : ), (Breath Sounds: Clear :
   )
   Abdominal: Bowel sounds present, Tender: firm throughout
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Warm
   Neurologic: Follows simple commands, awake, conversant.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 4777**], MD
   on:[**2144-3-18**] 10:56 ------

2144-03-18 10:57:00 Physician Attending Progress Note
Chief Complaint: urosepsis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
   Weaned off pressors, BP stabilized.
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2144-3-16**] 04:40 PM
   Piperacillin - [**2144-3-18**] 09:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   zosyn 2.25 q8, lansoprazole, vanco by level
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2144-3-18**] 10:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**46**] AM
   Tmax: 37.1
C (98.8
   Tcurrent: 37.1
C (98.8
   HR: 61 (52 - 136) bpm
   BP: 110/44(60) {85/38(49) - 121/64(76)} mmHg
   RR: 24 (14 - 27) insp/min
   SpO2: 90%
   Heart rhythm: 1st AV (First degree AV Block)
   Height: 73 Inch
   CVP: 12 (-4 - 20)mmHg
   Total In:
                                                                  5,253 mL
                                                                  1,310 mL
   PO:
                                                                  1,000 mL
                                                                    960 mL
   TF:
   IVF:
                                                                  4,253 mL
                                                                    350 mL
   Blood products:
   Total out:
                                                                  2,990 mL
                                                                  1,230 mL
   Urine:
                                                                  2,990 mL
                                                                  1,230 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,263 mL
                                                                     80 mL
   Respiratory support
   SpO2: 90%
   ABG: ///26/
   Physical Examination
   General Appearance: No acute distress
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.0 g/dL
   217 K/uL
   82 mg/dL
   1.7 mg/dL
   26 mEq/L
   3.7 mEq/L
   31 mg/dL
   113 mEq/L
   147 mEq/L
   27.5 %
   9.1 K/uL
        [image002.jpg]
                             [**2144-3-16**]  09:47 AM
                             [**2144-3-16**]  11:35 AM
                             [**2144-3-16**]  12:17 PM
                             [**2144-3-16**]  04:55 PM
                             [**2144-3-17**]  04:12 AM
                             [**2144-3-17**]  12:03 PM
                             [**2144-3-17**]  05:25 PM
                             [**2144-3-18**]  03:40 AM
   WBC
   6.4
   8.0
   7.8
   9.1
   Hct
   24
   18.9
   20.3
   24.8
   26.3
   26.0
   27.5
   Plt
   119
   158
   166
   217
   Cr
   4.6
   3.7
   2.6
   2.1
   1.8
   1.7
   Glucose
   88
   105
   87
   104
   115
   82
   Other labs: PT / PTT / INR:34.5/58.5/3.5, ALT / AST:[**9-6**], Alk Phos / T
   Bili:29/0.2, Lactic Acid:0.8 mmol/L, LDH:233 IU/L, Ca++:8.2 mg/dL,
   Mg++:1.9 mg/dL, PO4:2.5 mg/dL
   Assessment and Plan
   SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION):  continue vanco and zosyn,
   dose by level, no growth of an organism.. but presentation still mostly
   likely was urosepsis.. will treat for 14day course. BP nromalized off
   pressors, he is volume replete at this point.
   Post obstructive renal failure: improved, will need chronic indwelling
   foley, plan for suprapubic catheter down the line.
   Hypernatremia: improved on D5W, and he's taking po, likely stop iv d5w
   later today based on recheck of Na.
   MVR: will resume coumadin tonight, and if INR<2.5 will start heparin
   bridge
   Anemia: stabilized s/p 2U of PRBC, likley in the setting of hematuria.
   Constipation: agressive bowel regimen.
   Dispo: to floor, call PT, OT, case management
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Presep Catheter - [**2144-3-16**] 11:00 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Coumadin)
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 30 minutes
   ------ Protected Section ------
   I saw and examined the pt, and was physically present with the ICU team
   for the key portions of services provided. I agree with Dr. [**First Name (STitle) 10164**]
   note, including assessment and plan. 67 yo male with dementia, urogenic
   bladder admitted with UTI/sepsis, obstructive uropathy with acute renal
   failure, hematuria/acute blood loss anemia.
   Over the past day, his BP has slowly corrected and his MS has improved.
   Hypernatremia has also improved with free water.
   Issues:
   1.       UTI/sepsis: No recoverable organisms from cultures, but given
   U/A and improvt on abx plan to complete a 14 day course
   2.       Hypotension: likely combined hypovolemia/sepsis- no longer
   requiring fluid resuscitation, continue to monitor MAP
   3.       ARF/Obstructive uropathy/hydronephrosis: Cr continuing to
   decrease. Cont foley, will need suprapubic catheter eventually
   4.       Hypernatremia improving
   5.       contractures: PT/OT consult
   6.       other issues per housestaff note
   Appears appropriate for floor tx.
   ------ Protected Section Addendum Entered By:[**Name (NI) 618**] [**Last Name (NamePattern1) **], MD
   on:[**2144-3-18**] 15:40 ------